US06150351
To a solution of benzhydryl 7β-(2-phenylacetamido)-3-[2-(1-tritylpyrazol-4-yl)ethylthio]-3-cephem-4-carboxylate (930 mg) in a mixture of dichloromethane (3 ml) and anisole (1 ml) was added trifluoroacetic acid (2 ml) under ice-cooling. The mixture was stirred at room temperature for 1 hour. The reaction mixture was poured into diisopropyl ether (100 ml). The precipitate was collected by filtration. The precipitate was added a 90% formic acid (4 ml) and stirred for 15 minutes at room temperature. The reaction mixture was poured into a mixture of ethyl acetate (100 ml) and ice-water (50 ml). The separated organic layer was added buffer solution (pH 6.86, 100 ml), adjusted to pH 7 with sodium bicarbonate. The separated aqueous layer was added ethyl acetate (60 ml) and tetrahydrofuran (30 ml), adjusted to pH 2.5 with 1N-hydrochloric acid. The organic layer was washed with saturated aqueous sodium chloride, dried over magnesium sulfate and concentrated in vacuo. The residue was triturated with diethyl ether to give 7β-(2-phenylacetamido)-3-[2-(pyrazol-4-yl)ethylthio]-3-cephem-4-carboxylic acid (275 mg).

reactant | benzhydryl 7β-(2-phenylacetamido)-3-[2-(1-tritylpyrazol-4-yl)ethylthio]-3-cephem-4-carboxylate | 930 mg | C1(=CC=CC=C1)CC(=O)N[C@H]1[C@@H]2N(C(=C(CS2)SCCC=2C=NN(C2)C(C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)C(=O)OC(C2=CC=CC=C2)C2=CC=CC=C2)C1=O | C52H44N4O4S2
reactant | trifluoroacetic acid | 2 ml | FC(C(=O)O)(F)F | C2HF3O2
reactant | diisopropyl ether | 100 ml | C(C)(C)OC(C)C | C6H14O
solvent | dichloromethane | 3 ml | ClCCl | CH2Cl2
solvent | anisole | 1 ml | C1(=CC=CC=C1)OC | C7H8O
product | 7β-(2-phenylacetamido)-3-[2-(pyrazol-4-yl)ethylthio]-3-cephem-4-carboxylic acid | 275 mg | C1(=CC=CC=C1)CC(=O)N[C@H]1[C@@H]2N(C(=C(CS2)SCCC=2C=NNC2)C(=O)O)C1=O | C20H20N4O4S2
